US04134983
A solution of methyl 2-[4-(3-tert. butylamino-2-hydroxypropoxy)phenyl]imidazole-4-carboxylate (10 g.) in methanol (100 ml.) is reacted in a bomb with ammonia (44 g.) at 100° C. for 24 hours. The reaction mixture is concentrated under reduced pressure and the residue is chromatographed on silica gel. The product is eluted with chloroform that is washed with concentrated aqueous ammonia (90%) and methanol (10%) and is recrystallized from acetonitrile to yield the 2-[4-(3-tert. butylamino-2-hydroxypropoxy)phenyl]-4-carbamoylimidazole as a white solid, m.p. 149-154° C.

reactant | methyl 2-[4-(3-tert. butylamino-2-hydroxypropoxy)phenyl]imidazole-4-carboxylate | 10 g | C(C)(C)(C)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C(=O)OC)O | C18H25N3O4
reactant | ammonia | 44 g | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | 2-[4-(3-tert. butylamino-2-hydroxypropoxy)phenyl]-4-carbamoylimidazole | C(C)(C)(C)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C(N)=O)O | C17H24N4O3
